US05104559
Preparation of 4-phenylthio-4'-(1-(3-methoxyphenoxy)-1,2,3,3,3-pentafluoropropoxy)benzophenone
33 g 4-fluoro-4'-(1-(3-methoxyphenoxy)-1,2,3,3,3-pentafluoro-propoxy)benzophenone, 10 g potassium carbonate, 7.7 g thiophenol, and 100 ml dimethylformamide were stirred together for eight hours at 100° C., then allowed to cool to room temperature. After cooling, the solids were removed from the mixture by filtration, and the low boilers were removed by distillation at 200° C./0.5 mm Hg. The resulting product was distilled at 240°-300° C./0.5 mm Hg. NMR spectra and gas chromatography confirmed that the desired benzophenone was prepared.

reactant | 4-fluoro-4'-(1-(3-methoxyphenoxy)-1,2,3,3,3-pentafluoro-propoxy)benzophenone | 33 g | FC1=CC=C(C(=O)C2=CC=C(C=C2)OC(C(C(F)(F)F)F)(F)OC2=CC(=CC=C2)OC)C=C1 | C23H16F6O4
reactant | potassium carbonate | 10 g | C([O-])([O-])=O.[K+].[K+]
reactant | thiophenol | 7.7 g | C1(=CC=CC=C1)S | C6H6S
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 4-phenylthio-4'-(1-(3-methoxyphenoxy)-1,2,3,3,3-pentafluoropropoxy)benzophenone | C1(=CC=CC=C1)SC1=CC=C(C(=O)C2=CC=C(C=C2)OC(C(C(F)(F)F)F)(F)OC2=CC(=CC=C2)OC)C=C1 | C29H21F5O4S
